US05292732
For the acetal cleavage, 15 ml of a 10% aqueous oxalic acid solution were applied to 100 g of silica gel and 4.8 g of 7-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde dimethyl acetal were chromatographed on this mixture with methylene chloride as the eluent. There were obtained 3.8 g (95%) of 7-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthalene-acetaldehyde.

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 7-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthaleneacetaldehyde dimethyl acetal | 4.8 g | COC(CC1C(C2=CC(=CC=C2CC1)Cl)=O)OC | C14H17ClO3
product | 7-chloro-1,2,3,4-tetrahydro-1-oxo-2-naphthalene-acetaldehyde | 3.8 g, 95% | ClC1=CC=C2CCC(C(C2=C1)=O)CC=O | C12H11ClO2
